US07319104B2
2-[4-(2-{1,3-Benzoxazol-2-yl[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from ethyl 2-[4-(2-{[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and 2-chlorobenzoxazole.

reactant | ethyl 2-[4-(2-{[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | C1(CC1)C1=NC(=NO1)C1=CC=C(CNCCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=C1 | C26H31N3O4
reactant | 2-chlorobenzoxazole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
product | 2-[4-(2-{1,3-Benzoxazol-2-yl[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | O1C(=NC2=C1C=CC=C2)N(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)CC2=CC=C(C=C2)C2=NOC(=N2)C2CC2 | C31H30N4O5
